US05859011
5-t-Butoxycarbonyl-4-(2,6-dichlorophenyl)-3-methoxycarbonyl-2-methoxycarbonylmethyl-6-methyl-1,4-dihydropyridine
A mixture of t-butyl 3-amino-2-butenoate (3.911 g, 24.8 mmol), 2,6-dichlorobenzaldehyde (4.354 g, 24.8 mmol), and dimethyl acetonedicarboxylate (3.657 ml, 24.8 mmol) in methanol (50 ml) was refluxed for 45 h. The solvent was evaporated and the residue was chromatographed on 800 g silica gel (dichloromethane/ethyl acetate: 23/2 as eluent) to give 1.18 g of product. On silica GF plates, the product was blue fluorescent at Rf=0.3.

reactant | t-butyl 3-amino-2-butenoate | 24.8 mmol, 3.911 g | NC(=CC(=O)OC(C)(C)C)C | C8H15NO2
reactant | 2,6-dichlorobenzaldehyde | 24.8 mmol, 4.354 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | dimethyl acetonedicarboxylate | 24.8 mmol, 3.657 ml | COC(=O)CC(=O)CC(=O)OC | C7H10O5
solvent | methanol | 50 ml | CO | CH4O
product | 5-t-Butoxycarbonyl-4-(2,6-dichlorophenyl)-3-methoxycarbonyl-2-methoxycarbonylmethyl-6-methyl-1,4-dihydropyridine | 1.18 g | C(C)(C)(C)OC(=O)C=1C(C(=C(NC1C)CC(=O)OC)C(=O)OC)C1=C(C=CC=C1Cl)Cl | C22H25Cl2NO6
